US04241071
A mixture of 3 g of 4-[α-(4-methoxyphenyl)-2-tolyl]piperidine hydrochloride, Example 39, and 48 ml of 48% HBr is refluxed on an oil bath (157° C.) with stirring for 32 minutes, cooled and then poured onto 48 ml of cooled water. The resulting suspension is quenched with 48 ml of concentrated ammonium hydroxide, stirred thoroughly and the solid is collected by suction filtration. The filter cake is dried in vacuo at 40° C. over sodium hydroxide pellets and then dissolved in 500 ml of hot absolute ethanol. 32 ml of triethylamine is added to the hot ethanolic solution. The hot solution is diluted with chloroform and then washed twice with water. The organic phase is collected, dried and filtered and then the solvent evaporated off leaving a solid product which is recrystallized from absolute ethanol in the presence of activated charcoal to give yellowish crystals, mp 217°-221° C. of 4-[α-(4-hydroxyphenyl)-2-tolyl]piperidine.

reactant | 4-[α-(4-methoxyphenyl)-2-tolyl]piperidine hydrochloride | 3 g | Cl.COC1=CC=C(C=C1)CC1=C(C=CC=C1)C1CCNCC1
reactant | HBr | 48 ml | Br | BrH
solvent | water | 48 ml | O | H2O
product | 4-[α-(4-hydroxyphenyl)-2-tolyl]piperidine | OC1=CC=C(C=C1)CC1=C(C=CC=C1)C1CCNCC1 | C18H21NO
